US07226644B2
In a nitrogen atmosphere, 1,2,3-trifluorobenzene was dissolved into THF, and cooled to −60° C. Then, butyllithium (1.56 M hexane solution) was added dropwise for 30 minutes, and stirred for 2 hours. Then, the THF solution containing iodine was added dropwise for 1 hour, and warmed to room temperature. After the reaction solution was poured into a sodium thiosulfate aqueous solution and stirred for a while, an organic layer was separated, and an aqueous layer was extracted with toluene. After the extract and the organic layer were mixed together, washed using water and a saturated saline solution in that order, and dried using anhydrous sodium sulfate, the solvent was evaporated under a reduced pressure to obtain 4-iodo-1,2,3-trifluorobenzene.

reactant | butyllithium | 1.56 M | C(CCC)[Li]
reactant | iodine | II | I2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | 1,2,3-trifluorobenzene | FC1=C(C(=CC=C1)F)F | C6H3F3
solvent | THF | C1CCOC1 | C4H8O
product | 4-iodo-1,2,3-trifluorobenzene | IC1=C(C(=C(C=C1)F)F)F | C6H2F3I
